US04925834
17.2 g of fluoromethyl triphenylphosphonium tetrafluoroborate is suspended in 120 ml of tetrahydrofuran and mixed at 25° C. by portions with 7.8 g of potassium tert-butylate. Stirring is continued for one more hour, it is cooled to 0° C. and 1.5 g of 19-mercapto-4-androstene-3,17-dione (European patent 100,556) is instilled in 10 ml of tetrahydrofuran and stirring is continud for 30 more minutes. Then it is neutralized in 1N hydrochloric acid, the reaction mixture is added to waer, extracted 4 times with ethyl acetate, the organic phases washed neutral, dried on sodium sulfate and freed rom the solvent in a vacuum. After chromatography on silica gel with hexane/ethyl acetate, 752 mg of 3-fluoromethylene-19-mercapto-4-androsten-17-one with a melting point of 118°-120° C. is obtained.

reactant | fluoromethyl triphenylphosphonium tetrafluoroborate | 17.2 g | F[B-](F)(F)F.FC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butylate | 7.8 g | CC(C)(C)[O-].[K+]
reactant | 19-mercapto-4-androstene-3,17-dione | 1.5 g | SC[C@]12CCC(C=C1CC[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=O | C19H26O2S
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 1N | Cl | ClH
product | 3-fluoromethylene-19-mercapto-4-androsten-17-one | 752 mg | FC=C1C=C2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)CS)=O | C20H27FOS
